US06653499B1
0.81 g Dicyclohexylcarbodiimide is added to a solution of 0.58 g 7-hydroxycoumarin, 1.0 g 1,2,3-tris(10-[4-carboxyphenoxy]decyloxy)propane, 0.1 g 4-dimethylaminopyridine and 50 ml dichloromethane at 0° C. The reaction mixture is stirred overnight at room temperature, filtered to remove inorganic material and the filtrate evaporated down. The residue is purified by column chromatography on silica gel using hexane/ethyl acetate (1/1 v/v) as eluent and recrystallisation from acetonitrile to yield 0.4 g of 1,2,3-tris(10-[4-(2-oxo-2H-1-benzopyran-7-yloxycarbonyl)phenoxy]decyloxy)propane.

reactant | Dicyclohexylcarbodiimide | 0.81 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 7-hydroxycoumarin | 0.58 g | OC1=CC=C2C=CC(OC2=C1)=O | C9H6O3
reactant | 1,2,3-tris(10-[4-carboxyphenoxy]decyloxy)propane | 1.0 g | C(=O)(O)C1=CC=C(OCCCCCCCCCCOCC(COCCCCCCCCCCOC2=CC=C(C=C2)C(=O)O)OCCCCCCCCCCOC2=CC=C(C=C2)C(=O)O)C=C1 | C54H80O12
catalyst | 4-dimethylaminopyridine | 0.1 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 1,2,3-tris(10-[4-(2-oxo-2H-1-benzopyran-7-yloxycarbonyl)phenoxy]decyloxy)propane | 0.4 g | O=C1OC2=C(C=C1)C=CC(=C2)OC(=O)C2=CC=C(OCCCCCCCCCCOCC(COCCCCCCCCCCOC1=CC=C(C=C1)C(=O)OC1=CC3=C(C=CC(O3)=O)C=C1)OCCCCCCCCCCOC1=CC=C(C=C1)C(=O)OC1=CC3=C(C=CC(O3)=O)C=C1)C=C2 | C81H92O18
